US09102625B2
A solution of 4,6-dichloronicotinamide (123 mg, 0.643 mmol), thiophen-2-ylmethanamine (0.065 mL, 0.634 mmol) and DIPEA (0.230 mL, 1.32 mmol) in NMP (4 mL) was stirred at 90 C for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, and concentrated in vacuo to give 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide as a solid (168 mg).

reactant | 4,6-dichloronicotinamide | 0.643 mmol, 123 mg | ClC1=CC(=NC=C1C(=O)N)Cl | C6H4Cl2N2O
reactant | thiophen-2-ylmethanamine | 0.634 mmol, 0.065 mL | S1C(=CC=C1)CN | C5H7NS
reactant | DIPEA | 1.32 mmol, 0.230 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide | 168 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC=1SC=CC1 | C11H10ClN3OS
